US04272534
A solution of diisopropylamine (22.5 g) in a mixture of anhydrous hexamethylphosphorotriamide and anhydrous tetrahydrofuran (47:53 by volume; 182 cc) is added dropwise, in the course of 14 minutes, to a 1.6 M solution of n-butyllithium in hexane (142 cc), which has been cooled to -55° C. The mixture is stirred for 5 minutes at a temperature of about -60° C. and a solution of 2-(pyrid-2-yl)tetrahydrothiophene (30 g) in a mixture of anhydrous hexamethylphosphorotriamide and anhydrous tetrahydrofuran (47:53 by volume; 182 cc) is added in the course of 13 minutes. After stirring for 7 minutes at -65° C., a solution of methyl isothiocyanate (16.8 g) in a mixture of anhydrous hexamethylphosphorotriamide and anhydrous tetrahydrofuran (47:53 by volume; 90 cc) is added in the course of 13 minutes at a temperature of the order of -60° C. The reaction mixture is subsequently stirred for 1 hour at the same temperature and then for 1 hour whilst allowing the temperature to rise gradually to +5° C. After adding distilled water (900 cc), the reaction mixture is extracted twice with ethyl acetate (900 cc in total). The combined organic extracts are washed three times with distilled water (2700 cc in total), dried over anhydrous sodium sulphate and concentrated to dryness. The residue (43 g) is dissolved in boiling ethanol (180 cc). After filtering hot, the solution is kept for 24 hours at a temperature of about 4° C. The crystals which have appeared are filtered off, washed with ethanol (10 cc) and then twice with diisopropyl ether (30 cc in total) and dried under reduced pressure (20 mm Hg) at a temperature of about 20° C., in the presence of potassium hydroxide pellets. 1.9 g of a product prepared under the same conditions are added to the product thus obtained (12.5 g), the whole is then dissolved in boiling ethanol (95 cc) and the solution, to which decolourising charcoal (1 g) is added, is filtered hot and then kept, after cooling, for 1 hour at a temperature of about 5° C. The crystals which have appeared are filtered off and washed with ethanol (10 cc) and then twice with diisopropyl ether (30 cc in total). After drying under reduced pressure (1 mm Hg) at 55° C., N-methyl-2-(pyrid-2-yl)tetrahydrothiophene-2-carbothioamide (12.5 g) melting at 131° C., is obtained.

reactant | diisopropylamine | 22.5 g | C(C)(C)NC(C)C | C6H15N
reactant | n-butyllithium | C(CCC)[Li]
reactant | 2-(pyrid-2-yl)tetrahydrothiophene | 30 g | N1=C(C=CC=C1)C1SCCC1 | C9H11NS
reactant | methyl isothiocyanate | 16.8 g | CN=C=S | C2H3NS
reactant | charcoal | 1 g | C | CH4
solvent | hexane | 142 cc | CCCCCC | C6H14
solvent | ethanol | 95 cc | C(C)O | C2H6O
solvent | tetrahydrofuran | 90 cc | O1CCCC1 | C4H8O
solvent | hexamethylphosphorotriamide | CN(C)P(=O)(N(C)C)N(C)C | C6H18N3OP
solvent | tetrahydrofuran | 182 cc | O1CCCC1 | C4H8O
solvent | tetrahydrofuran | 182 cc | O1CCCC1 | C4H8O
product | N-methyl-2-(pyrid-2-yl)tetrahydrothiophene-2-carbothioamide | 12.5 g | CNC(=S)C1(SCCC1)C1=NC=CC=C1 | C11H14N2S2
